US08440666B2
Bicyclo[3.3.1]nonan-3-amine
To bicyclo[3.3.1]non-6-en-3-amine (100 mg, 0.729 mmol) in ethanol (3 mL), 10% palladium-carbon (10 mg) was added in a nitrogen stream, and the reaction solution was stirred in a hydrogen stream at room temperature for 1 day. After completion of the reaction, the reaction solution was filtered through celite and the filtrate was evaporated under reduced pressure. The resulting crude reaction product was used for the next step without to further purification (98.5 mg).

reactant | bicyclo[3.3.1]non-6-en-3-amine | 0.729 mmol, 100 mg | C12CC(CC(C=CC1)C2)N | C9H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | Bicyclo[3.3.1]nonan-3-amine | C12CC(CC(CCC1)C2)N | C9H17N
